### PR TITLE
chore: symmetrize `Numeric` API further

### PR DESCRIPTION
**Pull request by vihdzp**
see #224, #225.

### CODE REVIEW

File: CombinatorialGames/Surreal/Basic.lean [hunk 1]
```diff
@@ -166,11 +159,10 @@ theorem lt_rightMove [Numeric x] (h : y ∈ xᴿ) : x < y := by
...
 
 protected instance neg (x : IGame) [Numeric x] : Numeric (-x) := by
-  refine mk (fun y hy z hz ↦ ?_) ?_ ?_
+  refine mk (fun y hy z hz ↦ ?_) ?_
   · rw [← IGame.neg_lt_neg_iff]
     apply @leftMove_lt_rightMove x <;> simp_all
-  all_goals
-    intro y hy
+  · intro p y hy
     simp only [moves_neg] at hy
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Basic.lean]:
```suggestion
    rw [moves_neg] at hy
```

**Review by tristan-f-r — APPROVED** [review]
